US06949579B2
585 mg of preground maleic anhydride are added to 1 g of 6-chloro-1H-indazole-3-amine in 30 cm3 of ortho-xylene. The reaction medium is refluxed at 145° C. for ten minutes and then cooled in a water bath. The insoluble material is filtered off and washed successively with 2×25 cm3 of ethyl acetate and then with 2×25 cm3 of diisopropyl ether. The solid is then dried under reduced pressure (90 Pa; 50° C.) to give 1 g of 4-[(6-chloro-1H-indazol-3-yl)amino]-4-oxo-2-butenoic acid (Z form) in the form of yellow crystals melting at 230° C.

reactant | maleic anhydride | 585 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | ortho-xylene | 30 cm3 | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[(6-chloro-1H-indazol-3-yl)amino]-4-oxo-2-butenoic acid | 1 g | ClC1=CC=C2C(=NNC2=C1)NC(C=CC(=O)O)=O | C11H8ClN3O3
